US07214673B2
5H-Dibenzo[b,e][1.4]diazepin-11-ylamine hydrochloride
Combine 2-(2-Nitro-phenylamino)-benzonitrile (6.14 g, 25.66 mmol), tin(II) chloride dihydrate (17.37 g, 76.99 mmol), 5N HCl (105 ml), and ethanol (65.0 ml). Stir the mixture at reflux for 24 hours then cool it to ambient temperature and chill it in the refrigerator for 2 hours. Remove the ethanol under vacuum and chill in the refrigerator again. Filter off the resulting precipitate by vacuum filtration and dry it in a vacuum oven to give 6.31 g (100%) of a yellow solid: mass spectrum (ion spray): m/z=210.0 (M+1).

reactant | 2-(2-Nitro-phenylamino)-benzonitrile | 25.66 mmol, 6.14 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C#N)C=CC=C1 | C13H9N3O2
reactant | tin(II) chloride dihydrate | 76.99 mmol, 17.37 g | O.O.[Sn](Cl)Cl
reactant | HCl | 5N, 105 ml | Cl | ClH
solvent | ethanol | 65.0 ml | C(C)O | C2H6O
product | 5H-Dibenzo[b,e][1.4]diazepin-11-ylamine hydrochloride | 6.31 g, 100% | Cl.C1=CC=CC=2NC3=C(N=C(C21)N)C=CC=C3 | InChI=1S/C13H11N3.ClH/c14-13-9-5-1-2-6-10(9)15-11-7-3-4-8-12(11)16-13;/h1-8,15H,(H2,14,16);1H
